US05994391
Alkylation of 4-methoxyphenol with 3-fluorobenzyl chloride according to the procedure described in J. Chem. Soc, 2431 (1958) gave 4-methoxy-2-(3'-fluorobenzyl)phenol. This material was converted to compound 71 and compound 72 by the procedure similar to that in Example 18 method B.

reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | 3-fluorobenzyl chloride | FC=1C=C(CCl)C=CC1 | C7H6ClF
product | 4-methoxy-2-(3'-fluorobenzyl)phenol | COC1=CC(=C(C=C1)O)CC1=CC(=CC=C1)F | C14H13FO2
